US08835470B2
2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-Va, 37 mg, 0.086 mmol), (S)-2-aminopropanenitrile (Int-XI, 9.0 mg, 0.13 mmol) [see also, McLaughlin, M. et al., J. Org. Chem., 68:50-54 (2003)], 4-methylmorpholine (34.7 mg, 0.343 mmol), and HATU (42.4 mg, 0.112 mmol) were dissolved in DMF (1 mL). After stirring 1 h, the reaction mixture was purified by prep HPLC (PHENOMENEX® 21×250 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 38 min, 25 mL/min, 220 nM, product retention=29.3 min) to provide single enantiomer N—((S)-1-cyanoethyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (12 mg, 0.023 mmol, 27.3% yield): [M+H]+=484.2; 1H NMR (400 MHz, methanol-d4) δ ppm 8.13-8.25 (2 H, m), 7.54-7.77 (7 H, m), 5.19 (1 H, s), 4.87 (1 H, q), 1.54 (3 H, d, J=7.04 Hz); HPLC peak RT=11.1 min (Method A).

reactant | 2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.086 mmol, 37 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | (S)-2-aminopropanenitrile | 0.13 mmol, 9.0 mg | N[C@H](C#N)C | C3H6N2
reactant | 4-methylmorpholine | 0.343 mmol, 34.7 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.112 mmol, 42.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N—((S)-1-cyanoethyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.023 mmol, 12 mg, 27.3% yield | C(#N)[C@H](C)NC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O | C23H16F3N5O4
